US08895547B2
N-(2,4-Dimethoxybenzyl)-1-phenylethanesulfonamide
Under inert gas, 375 mg of N-(2,4-dimethoxybenzyl)-C-phenylmethanesulfonamide were initially charged in 40 ml of THF, and then, at a temperature of −78° C., 1.46 ml of a 1.6 N butyllithium solution in hexane were added dropwise and the mixture was left to stir for 5 minutes. After the addition of 166 mg of methyl iodide, the reaction mixture was allowed to come to room temperature. The reaction solution was admixed with 50 ml of water and 50 ml of ethyl acetate, and the aqueous phase was reextracted with 50 ml of ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by rotary evaporation, and the residue was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (334 mg) with a molecular weight of 335.4 g/mol (C17H21NO4S).

reactant | N-(2,4-dimethoxybenzyl)-C-phenylmethanesulfonamide | 375 mg | COC1=C(CNS(=O)(=O)CC2=CC=CC=C2)C=CC(=C1)OC | C16H19NO4S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | methyl iodide | 166 mg | CI | CH3I
reactant | water | 50 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(2,4-Dimethoxybenzyl)-1-phenylethanesulfonamide | 334 mg | COC1=C(CNS(=O)(=O)C(C)C2=CC=CC=C2)C=CC(=C1)OC | C17H21NO4S
